US04613609
(Z)-1-(4-Chlorophenyl)-2-buten-1-ol
Under nitrogen, hydrogenate a mixture of 10 g (0.055 mole) of 1-(4-chlorophenyl)-2-butyn-1-ol and 0.6 g Lindlar catalyst. Following the reaction vic NMR the reaction is complete in about two days. The hydrogenation is stopped and the reaction stirred under N2 at room temperature overnight. Filter off the catalysts, wash with methylene chloride combine the filtrate and evaporate to yield the title compound.

reactant | 1-(4-chlorophenyl)-2-butyn-1-ol | 0.055 mole, 10 g | ClC1=CC=C(C=C1)C(C#CC)O | C10H9ClO
catalyst | Lindlar catalyst | 0.6 g | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
product | (Z)-1-(4-Chlorophenyl)-2-buten-1-ol | ClC1=CC=C(C=C1)C(\C=C/C)O | C10H11ClO
